Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Augmentin / Vancomycin
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
Pacemaker placement
 
History of Present Illness:
Ms. ___ is a ___ year-old woman with his known AF, SSS, 
Turner's syndrome with aortic coarctation s/p repair at age ___, 
hypothyroidism, mediastinal Schwannoma, and chronic pericardial 
effusion who presents with palpitations and subsequent 
bradycardia. She noted that she has always had a low heart rate 
at baseline, but starting having episodes of sudden 
lightheadedness dating ___. This was diagnosed in ___ to be AF 
with RVR. She has previously been treatd with CCB and BB, but 
was unablt to tolerate due to resultant bradycardia and 
hypotension (though it appears that when she spontaneously 
breaks from AF with RVR, she typically has sinus bradycardia). 

Today, she noted the onset of palpitations and a vague feeling 
of
being unwell. She did not have lightheadedness or dizziness and 
was not diaphoretic. She went to work and saw her 
enodcrinologist, where she was notedc to have an irregular HR. 
She was seen in the office by Dr. ___ found her to be 
in AF with a rapid rate to the 180s. He gave her 25mg of 
metoprolol tartrate in the office and brought her to the ED. 

In the ED, initial vitals were: 96.8 180 118/89 16 99% RA. Her 
ECG was notable for AF with RVR. Her labs were all WNL except 
for PLT 112. She was given another dose of metoprolol tartrate 
50mg. One hour after this dose, she still had not converted. She 
was seen by the cardiology attending, and flecainide 50mg was 
given. After this was given, she was noted to have a 9-second 
conversion pause. She developed hypotension at 61/27 and 
bradycardia to 41. She was symptomatic with lightheadedness and 
dizziness. She was placed in ___ and given 1L IVF and 
1g calcium gluconate with resolution of her hypotension. She 
noted that her palpitations had resolved, however, she still 
remained bradycardic and had soft SBPs. She was started on 
dopamine at 2.5 mcg/kg/min and her HR improved to 47 and BP to 
95/48. She was admitted to the CCU for further management.

On arrival to the ___ (being followed by the CCU team), she 
was in no acute distress. All of her symptoms had resolved. She 
was weaned off the dopamine and was maintaining SBPs in the 
90-100s and HR in the mid-high ___.
 
Past Medical History:
-atrial fibrillation
-SSS
-Turner syndrome
-status post coarctation of the aorta repair
-repair of her webbed neck 
-posterior mediastinal mass (Schwannoma) 
-allergic rhinitis
-hypothyroidism
-osteoarthritis and osteoporosis
-alopecia
-lichen sclerosus
-vitamin D deficiency
-hyperparathyroidism
-cholelithiasis
 
Social History:
___
Family History:
Father who died from MDS that converted to leukemia.  He also 
had blood clots and heart disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: T 98.3, BP 103/61, HR 52, RR 14, O2 sat 98%
Gen: In no acute distress, stature is short.
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Varicosities present but warm, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema
Neuro: A+Ox3, CNII-XII intact, no gross motor/sensory deficits.

DISCHARGE PHYSICAL EXAM
=======================
VS: 98.1  ___  50-60  18  96%RA
Gen: In no acute distress, stature is short.
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Chest: PPM in place, no hematoma, erythema, no tenderness to 
palpation
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Varicosities present but warm, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema
Neuro: A+Ox3, CNII-XII intact, no gross motor/sensory deficits.

 
Pertinent Results:
ADMISSION LABS
==============
___ 06:10PM BLOOD WBC-7.7 RBC-5.19 Hgb-14.1 Hct-42.3 MCV-82 
MCH-27.1 MCHC-33.3 RDW-14.3 Plt ___
___ 06:10PM BLOOD Neuts-55.6 ___ Monos-6.3 Eos-2.8 
Baso-0.6
___ 06:10PM BLOOD ___ PTT-33.1 ___
___ 06:10PM BLOOD Glucose-104* UreaN-20 Creat-0.7 Na-138 
K-4.8 Cl-103 HCO3-25 AnGap-15
___ 06:10PM BLOOD Calcium-8.9 Phos-3.8 Mg-2.2

NOTABLE LABS
============
___ 01:43AM BLOOD TSH-0.96

MICROBIOLOGY
============
None.

IMAGING/STUDIES
===============
ECG ___
Atrial fibrillation with a rapid ventricular response. Possible 
anteroseptal myocardial infarction of undetermined age. Possible 
inferior myocardial infarction of undetermined age. Compared to 
the previous tracing of ___ the presence of atrial 
fibrillation is new. Other findings are similar.

ECG ___
Sinus bradycardia. Possible anteroseptal myocardial infarction 
of undetermined age. Prolonged Q-T interval. Premature 
ventricular contraction. Baseline artifact. Compared to the 
previous tracing of ___ the persence of sinus rhythm is now 
apparent.

CXR ___
Cardiomegaly with mild pulmonary edema.

CXR ___
1. Prominent and (known) atypical cardiomediastinal silhouette, 
unchanged 
compared with 2 days earlier. 
2. New patchy opacities at both lung bases.  This is likely 
atelectasis, but attention for early pneumonic infiltrates is 
requested.  Possible small bilateral effusions, also new. 
3. Mild prominence of pulmonary vessels consistent with mild 
CHF, unchanged. It is possible that this is associated with the 
basilar opacities. 
4. Somewhat atypical nodular pattern to the markings in the 
right lung of 
uncertain etiology or significance, also unchanged.  While this 
could 
represent developing CHF, if the patient has atypical symptoms, 
then CT could help for further assessment. 
5. No pneumothorax detected. 

CXR ___
Previous mild pulmonary edema has cleared.  Small pleural 
effusions are 
residual.  Transvenous right atrial right ventricular pacer 
leads in standard placements.  Moderate cardiomegaly chronic.  
Left lower paraspinal mass better evaluated by recent MR 
scanning.  No pneumothorax or mediastinal widening associated 
with pacemaker lead placements. 

DISCHARGE LABS
==============
___ 12:50PM BLOOD WBC-6.4 RBC-4.35 Hgb-11.7* Hct-35.1* 
MCV-81* MCH-27.0 MCHC-33.4 RDW-14.0 Plt ___
___ 12:50PM BLOOD Plt ___
___ 12:50PM BLOOD Glucose-126* UreaN-11 Creat-0.7 Na-135 
K-4.3 Cl-102 HCO3-27 AnGap-10
___ 12:50PM BLOOD Calcium-8.6 Phos-2.9 Mg-2.___ year-old woman with his known AF, SSS, Turner's syndrome with 
aortic coarctation s/p repair at age ___, hypothyroidism, 
mediastinal Schwannoma, and chronic pericardial effusion who 
presented with palpitations and subsequent bradycardia.  She had 
pacemaker placed on ___ ___ compatible device). 

ACUTE ISSUES
============

# Sick sinus syndrome: Pt is very sensitive to rate control 
agents, developing bradycardia and hypotension after metoprolol. 
She converted quickly after flecainide with a 9-second pause. 
Her SBPs and bradycardia recovered with dopamine and were 
stable/improving off dopamine. Pacemaker ___ 
compatible device) was placed on ___. She will complete 
prophylactic antibiotics for pacemaker placement. 

# AF: Pre-admission she was not on rate-control agents due to 
adverse effects. She was continued on apixiban for 
anticoagulation. On ___ she had an episode of afib with RVR and 
was briefly on diltiazem drip, which broke rapid rate. On 
discharge she as started on metoprolol 25 mg daily.

CHRONIC ISSUES
==============

# Hypothyroidism: She was continued on levothyroxine.

# Depression: She was continued on paroxetine and buspirone.

TRANSITIONAL ISSUES
===================
# Pending results: None.
# Medication changes: Metoprolol succinate 25mg daily, 
clindamycin 300mg PO Q6H (6 doses, ends ___
# Follow up: Device clinic, Cardiology, PCP
# PPM is medronic device, MRI compatible 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 150 mcg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Paroxetine 10 mg PO DAILY 
4. BusPIRone 5 mg PO DAILY 
5. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -500 unit oral DAILY 
6. Vitamin D 50,000 UNIT PO 1X/MONTH 
7. Acyclovir 400 mg PO TID:PRN rash 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
2. BusPIRone 5 mg PO DAILY 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Paroxetine 10 mg PO DAILY 
5. Acyclovir 400 mg PO TID:PRN rash 
6. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -500 unit oral DAILY 
7. Vitamin D 50,000 UNIT PO 1X/MONTH 
8. Clindamycin 300 mg PO Q6H Duration: 6 Doses 
RX *clindamycin HCl [Cleocin] 300 mg 1 capsule(s) by mouth every 
six (6) hours Disp #*6 Capsule Refills:*0
9. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Please take 
one tablet daily. Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
1. Sick sinus syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure to care for you at ___. You were admitted to 
the hospital because you were having a slow heart rate. You were 
evaluated by the electrophysiology specialists, who placed a 
pacemaker to regulate your heart rate.

After your pacemaker was placed, you had a rapid heart rate that 
got better with medicine.  When you go home you will take 
metoprolol to help control your heart rhythm.

You should continue your medications and follow up with your 
cardiologist and the device clinic.

We wish you all the best!

Your ___ care team
 
Followup Instructions:
___